US08058263B2
13.1. (S)-2-benzyloxycarbonylamino-5-hydroxy-pentanoic acid methyl ester
To a cold (−15° C.) solution of Cbz-Glu-OMe (1.5 g) in THF (70 mL) was added N-methylmorpholine (0.616 mL) followed by isobutyl chloroformate (0.731 mL) dropwise. After 30 min stirring at −15° C., NaBH4 (576 mg) was added, followed MeOH dropwise. The reaction mixture was stirred at −10° C. for 15 min and quenched by the addition of 1M KHSO4 solution. The mixture was extracted with EA. The org. phase was washed with water, dried (Na2SO4) and evaporated off to give the crude product as a colourless oil (1.5 g).

reactant | Cbz-Glu-OMe | 1.5 g | N([C@@H](CCC(O)=O)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C14H17NO6
reactant | N-methylmorpholine | 0.616 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.731 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | NaBH4 | 576 mg | [BH4-].[Na+]
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | (S)-2-benzyloxycarbonylamino-5-hydroxy-pentanoic acid methyl ester | 1.5 g | COC([C@H](CCCO)NC(=O)OCC1=CC=CC=C1)=O | C14H19NO5
